US06069145
3-Fluoro-4-(4-methyl-3-oxopiperazin-1-yl)nitrobenzene (3.33 g) was dissolved in a mixture of DMF (40 ml) and methanol (10 ml), and the solution flushed with argon. Ammonium formate (4.15 g) was added, and the mixture cooled to 5° C. Palladium (10% on carbon, 104 mg) was added, and the temperature allowed to rise to ambient as the mixture was stirred under argon for 2 hours. Solvents were evaporated to give an air sensitive product, 5-amino-2-(4-methyl-3-oxopiperazin-1-yl)fluorobenzene, which was used as such in the next stage.

reactant | 3-Fluoro-4-(4-methyl-3-oxopiperazin-1-yl)nitrobenzene | 3.33 g | FC=1C=C(C=CC1N1CC(N(CC1)C)=O)[N+](=O)[O-] | C11H12FN3O3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
product | 5-amino-2-(4-methyl-3-oxopiperazin-1-yl)fluorobenzene | NC=1C=CC(=C(C1)F)N1CC(N(CC1)C)=O | C11H14FN3O
